US08541588B2
5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide (Preparation 247, 63 mg, 0.14 mmol) was added to a mixture of 5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenol (Preparation 884, mg, 0.14 mmol) and potassium carbonate (22 mg, 0.16 mmol) in dimethyl sulfoxide (2 mL, 30 mmol). The reaction mixture was stirred at ambient temperature. After 3 hours the reaction mixture was diluted with water and saturated aqueous ammonium chloride and extracted with ethyl acetate (3×). The combined organic layers were washed with water then brine, dried over sodium sulfate, filtered, and concentrated in vacuo. The residue was taken up in methylene chloride, concentrated onto diatomaceous earth, and purified by automated flash chromatography (12 g SiO2, hexanes to ethyl acetate) to afford the intermediate 5-chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide as a glass (22 mg, 23%).

reactant | 5-Chloro-N-(2,4-dimethoxybenzyl)-2,4-difluoro-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 0.14 mmol, 63 mg | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)F | C17H14ClF2N3O4S2
reactant | 5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenol | FC=1C(=CC(=C(C1)O)C1=CN=NC=C1)C(F)(F)F | C11H6F4N2O
reactant | potassium carbonate | 0.16 mmol, 22 mg | C([O-])([O-])=O.[K+].[K+]
reactant | dimethyl sulfoxide | 30 mmol, 2 mL | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | ammonium chloride | [Cl-].[NH4+]
product | 5-chloro-N-(2,4-dimethoxybenzyl)-2-fluoro-4-[5-fluoro-2-pyridazin-4-yl-4-(trifluoromethyl)phenoxy]-N-1,3,4-thiadiazol-2-ylbenzenesulfonamide | 22 mg, 23% | ClC=1C(=CC(=C(C1)S(=O)(=O)N(C=1SC=NN1)CC1=C(C=C(C=C1)OC)OC)F)OC1=C(C=C(C(=C1)F)C(F)(F)F)C1=CN=NC=C1 | C28H19ClF5N5O5S2
